US06313122B1
A. 2-Nitro-N-phenylbenzamide
Using the procedure described in Example 93, Part A, aniline (11 mmol) and 2-nitrobenzoyl chloride (12.1 mmol) yielded 2.14 g (80%) of the title compound.

reactant | aniline | 11 mmol | NC1=CC=CC=C1 | C6H7N
reactant | 2-nitrobenzoyl chloride | 12.1 mmol | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
product | 2-Nitro-N-phenylbenzamide | 2.14 g, 80% | [N+](=O)([O-])C1=C(C(=O)NC2=CC=CC=C2)C=CC=C1 | C13H10N2O3
